US08633237B2
d) benzyl 5-(chloromethyl)-2,3-dihydro-1H-inden-1-ylcarbamate
Thionyl chloride (2.0 g, 16.8 mmol) was added to a suspension of benzyl 5-(hydroxymethyl)-2,3-dihydro-1H-inden-1-ylcarbamate (2.53 g, 8.5 mmol) in DCM (35 mL). The solution was stirred at rt for 1 h before the reaction mixture was evaporated to dryness in vacuo and the material was co-evaporated with diethyl ether (2×100 mL) to afford the title compound as a white solid (2.63 g, 98%). MS (ESI): m/z [M+NH4]+ 333.2

reactant | Thionyl chloride | 16.8 mmol, 2.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | benzyl 5-(hydroxymethyl)-2,3-dihydro-1H-inden-1-ylcarbamate | 8.5 mmol, 2.53 g | OCC=1C=C2CCC(C2=CC1)NC(OCC1=CC=CC=C1)=O | C18H19NO3
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
product | benzyl 5-(chloromethyl)-2,3-dihydro-1H-inden-1-ylcarbamate | 2.63 g, 98% | ClCC=1C=C2CCC(C2=CC1)NC(OCC1=CC=CC=C1)=O | C18H18ClNO2
